US06211234B1
A mixture of 2,4-dibenzyloxybenzaldehyde (2 g), hydroxylamine hydrochloride (0.45 g) and pyridine (0.53 mL) in ethanol (20 mL) is heated at reflux for 1 hour. The solvent is then removed in vacuo, the residue dissolved in ethyl acetate and the solution washed with 1 N hydrochloric acid then with brine. Removal of the solvent in vacuo gives a beige coloured solid which crystallises from a mixture of ether and petroleum ether to give 2,4-dibenzyloxybenzaldehyde oxime in the form of a white solid, m.p., 130° C. [Elemental analysis:- C,76.1; H,5.75; N,4.28%. Calculated:- C,75.7; H,5.74; N,4.20%].

reactant | 2,4-dibenzyloxybenzaldehyde | 2 g | C(C1=CC=CC=C1)OC1=C(C=O)C=CC(=C1)OCC1=CC=CC=C1 | C21H18O3
reactant | hydroxylamine hydrochloride | 0.45 g | Cl.NO
reactant | pyridine | 0.53 mL | N1=CC=CC=C1 | C5H5N
solvent | ethanol | 20 mL | C(C)O | C2H6O
product | 2,4-dibenzyloxybenzaldehyde oxime | C(C1=CC=CC=C1)OC1=C(C=NO)C=CC(=C1)OCC1=CC=CC=C1 | C21H19NO3
